US04891372
2-Methoxy-4-nitrobenzoyl chloride
Oxalyl chloride (0.81 ml) in methylene chloride (10 ml) was added dropwise to a solution of 2-methoxy-4-nitrobenzoic acid monohydrate (1 g) in methylene chloride (40 ml) and dimethylformamide (1 drop) and the reaction mixture was stirred at room temperature for 1 hour after gas evolution ceased. The solvent was then evaporated in vacuo to give an oil which was crystallised from cold ethyl acetate/hexane to give the title compound, yield 0.7 g.

reactant | Oxalyl chloride | 0.81 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-methoxy-4-nitrobenzoic acid monohydrate | 1 g | O.COC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 2-Methoxy-4-nitrobenzoyl chloride | COC1=C(C(=O)Cl)C=CC(=C1)[N+](=O)[O-] | C8H6ClNO4
